US08110575B2
Step 1: methylene-(2-methyl-2-thiophene-3-yl-propyl)-amine
5.8 g (37 mmol) 2-methyl-2-thiophene-3-yl-propylamine and 3.6 mL (44 mmol) formaldehyde were stirred overnight together with 2.0 g molecular sieve (4 Å powder) at RT. The reaction mixture was filtered and the filtrate was concentrated to dryness by rotary evaporation.

reactant | 2-methyl-2-thiophene-3-yl-propylamine | 37 mmol, 5.8 g | CC(CN)(C)C1=CSC=C1 | C8H13NS
reactant | formaldehyde | 44 mmol, 3.6 mL | C=O | CH2O
product | methylene-(2-methyl-2-thiophene-3-yl-propyl)-amine | C=NCC(C)(C1=CSC=C1)C | C9H13NS
